US06248740B1
Production of ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-methylimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride
2.38 g of 4-(diphenylmethoxy)-1-piperidinepropanamine and 1.03 g of ethyl 2-(6-chloro-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate were stirred at 160° C. for 7.5 hours. After cooling, aqueous sodium bicarbonate was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected, concentrated under reduced pressure and dissolved in 5 ml of ethyl acetate; 0.96 ml of a 4 N solution of hydrogen chloride in ethyl acetate was added, followed by concentration again. The residue was powdered by the addition of ethyl ether, collected by filtration and dried to yield 666 mg of the title compound.

reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 2.38 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | ethyl 2-(6-chloro-3-methylimidazo[1,2-b]pyridazin-2-yl)-2-methylpropionate | 1.03 g | ClC=1C=CC=2N(N1)C(=C(N2)C(C(=O)OCC)(C)C)C | C13H16ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | ethyl 2-[6-[3-[4-(diphenylmethoxy)piperidino]propylamino]-3-methylimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate dihydrochloride | 666 mg | Cl.Cl.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C(=C(N2)C(C(=O)OCC)(C)C)C)C2=CC=CC=C2 | InChI=1S/C34H43N5O3.2ClH/c1-5-41-33(40)34(3,4)32-25(2)39-30(36-32)18-17-29(37-39)35-21-12-22-38-23-19-28(20-24-38)42-31(26-13-8-6-9-14-26)27-15-10-7-11-16-27;;/h6-11,13-18,28,31H,5,12,19-24H2,1-4H3,(H,35,37);2*1H
